Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / shellfish derived / Sulfa (Sulfonamide 
Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/___ early Eosinophilic Granulomatosis with Polyangiitis 
p/w chest pain, fever and found to have EKG signs of 
pericarditis.

Patient presented yesterday to OSH with chest pain and fever. 
Symptoms began overnight and then today she developed relatively 
rapid progression of rhinorrhea, joint pain, "labored shallow 
breathing", anorexia, dry mouth, joint pains, congestion and 
sore throat. She slept upright to alleviate breathing. Chest 
pain is substernal, worse with exertion, pleuritic and sharp. 
She states it "feels like a really big gas bubble when I burp or 
swallow". On ___ she had a VQ scan at OSH which was negative, 
done for chest pain which felt similar but was more right sided. 
Relatively rapid onset and resolution at that time as well. No 
recent travel, prolonged immobilization, hematemesis, hx blood 
clots.

In the ED initial vitals were:  97.4 93 107/52 14 98% RA 
EKG:  Diffuse mild ST elevations and PR depressions
Labs/studies notable for:  CRP 54.1, CXR without acute process 
and POCUS without pericardial effusion
Patient was given:  1L NS and ibuprofen 600mg
Vitals on transfer: 98.1 100 95/66 16 100% RA  

On the floor patient reports feeling better, chest pain 
currently ___. Denies fever, chills, sore throat or cough. 

REVIEW OF SYSTEMS:  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope, or presyncope.  
 
On further review of systems, denies any prior history of 
stroke, TIA, deep venous thrombosis, pulmonary embolism, 
bleeding at the time of surgery, myalgias, joint pains, cough, 
hemoptysis, black stools or red stools. Denies exertional 
buttock or calf pain. Denies recent fevers, chills or rigors. 
All of the other review of systems were negative.  

 
Past Medical History:
EGPA
Reactive airway disease diagnosed age ___
Chronic allergies
Dry eyes
 
Social History:
___
Family History:
Father has diabetes and hypertension.  Mother
has hypertension, a thyroid nodule and fibroids.   Brother has
hypertension.   No family history of osteoporosis. 
 
Physical Exam:
Admission exam:
VS:  98.1 100 95/66 16 100% RA 
GENERAL: Adult female in NAD
HEENT: NCAT. MMM.   
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills, lifts.  
LUNGS: CTAB without increased WOB  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: Warm, no edema 

Discharge Exam:
VS: 98.2 ___ 98% on RA
GENERAL: Adult female in NAD
HEENT: NCAT. MMM.   
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills, lifts.  
LUNGS: CTAB without increased WOB  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: Warm, no edema 
 
Pertinent Results:
Admission labs:
___ 11:13PM BLOOD Neuts-60.3 ___ Monos-13.2* 
Eos-1.3 Baso-0.4 Im ___ AbsNeut-5.57# AbsLymp-2.25 
AbsMono-1.22* AbsEos-0.12 AbsBaso-0.04
___ 11:13PM BLOOD ___ PTT-29.7 ___
___ 11:13PM BLOOD Glucose-104* UreaN-12 Creat-0.7 Na-136 
K-4.2 Cl-101 HCO3-23 AnGap-16
___ 11:13PM BLOOD ALT-12 AST-16 AlkPhos-39 TotBili-0.3
___ 11:13PM BLOOD Lipase-35
___ 07:45AM BLOOD cTropnT-<0.01
___ 11:13PM BLOOD cTropnT-<0.01
___ 11:13PM BLOOD Albumin-3.6
___ 11:13PM BLOOD CRP-54.1*
___ 11:44PM BLOOD Lactate-1.1

Imaging:
___ CXR
No acute cardiopulmonary process 

___ TTE
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is ___ mmHg. Left ventricular wall thickness, cavity size and 
regional/global systolic function are normal (LVEF >55%). Tissue 
Doppler imaging suggests a normal left ventricular filling 
pressure (PCWP<12mmHg). Right ventricular chamber size and free 
wall motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is borderline pulmonary artery systolic hypertension. 
There is a trivial/physiologic pericardial effusion 
inferior/inferolateral to the left ventricle. 

 IMPRESSION: Preserved biventricular systolic function. No 
clinically significant valvular disease. Trivial focal 
pericardial effusion.  
 
Brief Hospital Course:
Summary
___ w/PMH early Eosinophilic Granulomatosis with Polyangiitis 
p/w chest pain, fever and found to have EKG signs of 
pericarditis. She was treated with ibuprofen and colchicine and 
improved quickly. She was discharged home in good condition. 

Acute issues
# Acute Pericarditis
Patient's presentation and EKG findings indicative of 
pericarditis, likely caused by preceding viral illness. CRP is 
elevated and was previously normal. Troponins were negative and 
bedside echo with no or small pericardial effusion. Chest pain 
improved after receiving ibuprofen. TTE was without evidence of 
systolic or valvular dysfunction. Ibuprofen 600mg TID and 
colchicine 0.6mg daily was started and she will follow with 
cardiology (at ___ and her Rheumatologist as an outpatient. 

# Eosinophilic GPA
She has been off prednisone since ___ and on MMF. No 
current symptoms of flare or abnormal labs. TTE results as 
above. She was continued on MMF and will follow with her 
outpatient Rheumatologist. We were in communication throughout 
the stay. 

# Reactive airway disease: Continued home inhalers. 

# Dry eyes: Continued home eye drops. 

Transitional Issues
- Ibuprofen 600mg TID was started and can be tapered in ___ 
weeks when symptoms improve. She was educated on not over 
exerting herself the next few weeks. 
- Colchicine 0.6mg daily was started to prevent recurrence. She 
should have CRP rechecked as an outpatient and when returns to 
normal, can taper colchine off over ___ weeks. 
- She will follow with PCP, ___ and PCP as an 
outpatient. 

 # CODE:  Presumed full
 # CONTACT:  
Name of health care proxy: ___ 
Relationship: Husband 
Phone number: ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
2. Calcium Carbonate 500 mg PO BID 
3. Cyclosporine 0.05% Ophth Emulsion 0.05 % ophthalmic DAILY 
4. Mycophenolate Mofetil 500 mg PO BID 
5. Vitamin D 1000 UNIT PO DAILY 
6. Magnesium Citrate 300 mL PO DAILY:PRN constipation 

 
Discharge Medications:
1.  Colchicine 0.6 mg PO DAILY 
RX *colchicine 0.6 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  Ibuprofen 600 mg PO Q6H 
RX *ibuprofen 600 mg 1 tablet(s) by mouth three times a day Disp 
#*84 Tablet Refills:*0 
3.  Calcium Carbonate 500 mg PO BID  
4.  Cyclosporine 0.05% Ophth Emulsion 0.05 % ophthalmic DAILY  
5.  Magnesium Citrate 300 mL PO DAILY:PRN constipation  
6.  Mycophenolate Mofetil 500 mg PO BID  
7.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID  
8.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Acute Pericarditis

Secondary:
EGPA
Reactive airway disease diagnosed age ___
Chronic allergies
Dry eyes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ with chest pain which was found to be 
due to inflammation around your heart called pericarditis. 
Please take the medications we have prescribed and followup with 
your outpatient providers. 

It was a pleasure taking care of you, best of luck. 
Your ___ medical team
 
Followup Instructions:
___